US06849635B2
4-(3-Chloro-2-cyano-phenoxy)N-[4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-benzenesulfonamide.
2-Chloro-5-nitrophenol 2-Chloro-5-nitroanisole (310 g, 1.7 mol) was taken up in a mixture of 48% HBr (1.5 L) and AcOH (1.2 L) and heated at reflux for 3 days. The dark solution was allowed to cool to room temperature, poured into ice water (10 L), and let stand for 3 h. The resultant dull yellow solid was filtered, washed with water, and dried in vacuo (230 g, 79%): mp 115-117° C. b). 2-Chloro-5-aminophenol A solution of 2-chloro-5-nitrophenol (25 g, 0.14 mol) in ethyl acetate (150 mL) was treated with 5% Pt/C (250 mg) and the mixture shaken under a hydrogen atmosphere (30 psi) for 4 h. The mixture was filtered through Celite® and the residue washed well with hot ethyl acetate. The filtrate was treated with activated charcoal and re-filtered as above. Evaporation of the ethyl acetate gave a solid (19.8 g, 98%). c). 4-Chloro-3-hydroxyphenylcarbamic acid tert-butyl ester To a solution of 2-chloro-5-aminophenol (20 g, 0.14 mol) in THF (150 mL) was added a solution of di-tert-butyl dicarbonate (33 g, 0.15 mol) in THF (150 mL). The reaction was heated at reflux for 6 h, at which time it was allowed to cool to room temperature. The solvent was removed in vacuo and the residue diluted with ether (500 mL) and washed with 1 M citric acid (2×300 mL). The aqueous washings were extracted with ether (300 mL) and the combined organics washed with brine (300 mL), dried (MgSO4), and concentrated. The resultant brown solid was triturated with hexanes and dried in vacuo to give 33 g (97%) of the title compound: mp 103-106° C. d). 3-[2-(N,N-Dimethylamino)ethoxy]-4-chloroaniline To a solution of 4-chloro-3-hydroxyphenylcarbamic acid tert-butyl ester (140 mg, 0.57 mmol) in 4:1 DME/water (5 mL) was added dimethylaminoethyl chloride hydrochloride (90 mg, 0.63 mmol) and K2CO3 (320 mg, 2.3 mmol). The reaction mixture was heated at reflux for 16 h, at which time it was allowed to cool to room temperature. The DME was removed in vacuo and the residue treated with 6 N HCl (2 mL). The resultant mixture was stirred at room temperature for 2 h, at which time it was diluted with water (5 mL) and washed with EtOAc (5 mL). The aqueous layer was basified with solid K2CO3 and extracted with EtOAc (2×10 mL). The EtOAc layers were washed with brine (10 mL), dried (MgSO4), and concentrated to give 60 mg (50%) of the title compound. e) 4-(3-Chloro-2-cyano-phenoxy)N-[4chloro-3-(2-dimethylamino-ethoxy)-phenyl]-benzenesulfonamide 3-[2-(N,N-Dimethylamino)ethoxy]-4-chloro-aniline (0.05 g, 0.23 mmol) was dissolved in CHCl3 (0.5 mL). A solution of 4-(2-cyano-3-chloro-phenoxy)benzenesulfonyl chloride (0.076 g, 0.23 mmol) in CHCl3 (0.5 mL) was added and the solution was allowed to shake for 5 days. The solution was evaporated and the residue purified by preparative reverse phase HPLC to give the title compound (0.05 g, 43%).

reactant | 4-(3-Chloro-2-cyano-phenoxy)N-[4chloro-3-(2-dimethylamino-ethoxy)-phenyl]-benzenesulfonamide 3-[2-(N,N-Dimethylamino)ethoxy]-4-chloro-aniline | 0.23 mmol, 0.05 g | CN(C)CCOC=1C=C(N)C=CC1Cl.ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)NC2=CC(=C(C=C2)Cl)OCCN(C)C)C=CC1)C#N
reactant | 4-(2-cyano-3-chloro-phenoxy)benzenesulfonyl chloride | 0.23 mmol, 0.076 g | C(#N)C1=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=CC=C1Cl | C13H7Cl2NO3S
solvent | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Chloro-2-cyano-phenoxy)N-[4-chloro-3-(2-dimethylamino-ethoxy)-phenyl]-benzenesulfonamide | 0.05 g, 43% | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)NC2=CC(=C(C=C2)Cl)OCCN(C)C)C=CC1)C#N | C23H21Cl2N3O4S
